US05654294
c) (S)-1,3,4,5-Tetrahydro-4-[[(phenylmethoxy)carbonyl]amino]-3-oxo-2 H-2-benzazepine-2-acetic acid, ethyl ester
A solution of (S)-1,3,4,5-tetrahydro-4-phthalimido-3-oxo-2 H-2-benzazepine-2-acetic acid, ethyl ester (1.67 g., 4.26 mmol.) in 1.0M hydrazine hydrate in ethanol (9.0 ml., 9.0 mmol.) was stirred at room temperature under argon for 36 hours. The mixture was diluted with an equal volume of ethyl acetate, filtered and filtrate evaporated to dryness. The residue was taken up in toluene and again evaporated to dryness. The colorless, semi-solid residue (1.81 g.) was taken up in dry methylene chloride (20 ml.), placed in an ice bath and treated successively with triethylamine (0.80 ml., 5.8 mmol.) and benzylchloroformate (0.77 ml., 5.4 mmol.). After stirring at 0° C. for 2 hours, the mixture was partitioned between ethyl acetate-5% potassium bisulfate. The organic phase was washed successively with 5% potassium bisulfate, saturated sodium bicarbonate and saturated sodium chloride solutions, dried (sodium sulfate), and evaporated to dryness. Purification of the crude product by flash chromatography on silica gel (Whatmann LPS-1) eluting with ethyl acetate:hexane (1:2) gave 1.0747 g. of product as a colorless foam; Rf =0.52 (ethyl acetate:toluene, 3:7). A sample crystallized from hexane had m.p. 80°-82° C.; [α]D =+87.2° (c=0.53, chloroform).

reactant | (S)-1,3,4,5-tetrahydro-4-phthalimido-3-oxo-2 H-2-benzazepine-2-acetic acid, ethyl ester | 4.26 mmol, 1.67 g | C1(C=2C(C(N1[C@@H]1C(N(CC3=C(C1)C=CC=C3)CC(=O)OCC)=O)=O)=CC=CC2)=O | C22H20N2O5
reactant | ethanol | 9.0 mmol, 9.0 ml | C(C)O | C2H6O
reactant | triethylamine | 5.8 mmol, 0.80 ml | C(C)N(CC)CC | C6H15N
reactant | benzylchloroformate | 5.4 mmol, 0.77 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | hydrazine hydrate | 1.0M | O.NN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-1,3,4,5-Tetrahydro-4-[[(phenylmethoxy)carbonyl]amino]-3-oxo-2 H-2-benzazepine-2-acetic acid, ethyl ester | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(N(CC2=C(C1)C=CC=C2)CC(=O)OCC)=O | C22H24N2O5
